US04592866
2-(2-Chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]-thiazepine-5(4H)-thione
A mixture of 4.3 g (0.017 mole) of 2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]thiazepin-5(4H)-one, 100 ml of toluene and 4.8 g (0.012 mole) of 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane-2,4-disulfide was refluxed for 3 hr and then extracted twice with dilute sodium hydroxide. The organic layer was concentrated and the residue chromatographed on the high pressure liquid chromatograph using a silica column and 50% ethyl acetate--50% hexane. The yield of title compound was 2 g, m.p. 160°-162° C.

reactant | 2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]thiazepin-5(4H)-one | 0.017 mole, 4.3 g | ClCCC1SC2=C(C(N(C1)C)=O)C=CC=N2 | C11H13ClN2OS
reactant | 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane-2,4-disulfide | 0.012 mole, 4.8 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]-thiazepine-5(4H)-thione | ClCCC1SC2=C(C(N(C1)C)=S)C=CC=N2 | C11H13ClN2S2
